US05116404
3-(2,4,6-trichlorophenyl)-6-trifluoromethyl-(1H,3H)-pyrimidine-2-thion-4-one (compound No. 5.75 of the present invention)
A 5 ml dimethylformamide solution of 3.7 g ethyl 3-amino-4,4,4-trifluorocrotonate was added dropwise to a 30 ml dimethylformamide solution of 1.0 g of sodium hydride (purity: 55%) with stirring at 5° C. The mixed solution was stirred at room temperature for 15 minutes, then cooled to 5° C. and added dropwise with a 10 ml dimethylformamide solution of 5.0 g of 2,4,6-trichlorophenyl isothiocyanate. The resulting solution was heated to room temperature and further stirred at 130° C. for 2 hours. Then the solvent was distilled away under reduced pressure and the residue was dissolved by adding 200 ml of water and washed with diethyl ether. The obtained aqueous layer was added into a mixed solution of 30 ml of concentrated hydrochloric acid and 100 g of ice and extracted with 200 ml of ethyl acetate. The obtained organic layer was washed with a sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then the solvent was distilled away under reduced pressure to obtain 2.8 g of a crude product. This product was purified by preparative thin-layer chromatography (developing solvent: a mixed solvent of chloroform and ethyl acetate) to obtain 0.43 g of the objective compound.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 3.7 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 2,4,6-trichlorophenyl isothiocyanate | 5.0 g | ClC1=C(C(=CC(=C1)Cl)Cl)N=C=S | C7H2Cl3NS
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(2,4,6-trichlorophenyl)-6-trifluoromethyl-(1H,3H)-pyrimidine-2-thion-4-one | 0.43 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1C(NC(=CC1=O)C(F)(F)F)=S | C11H4Cl3F3N2OS
